US08703766B2
Step 1. Ester hydrolysis
2-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-hydroxy-acetic acid 3,4-dichloro-benzyl ester (9.4 g,) was dissolved in 120 mL of THF-methanol (4:1) and 2N lithium hydroxide solution (39 mL) added. The resulting reaction mixture was stirred at room temperature 16 h. The mixture was poured onto 1N HCl and EtOAc and the organic layer was washed with brine, dried over sodium sulfate, and concentrated. The residual oil was taken up in minimal DCM and hexanes added to give a solid. The solid was filtered and washed with hexanes to afford the desired product [4-(3,4-dichloro-benzyloxy)-phenyl]-hydroxy-acetic acid in pure form (6.1 g). 1H NMR (400 MHz, DMSO d6): 7.69 (d, 1H), 7.63 (d, 1H), 7.41 (m, 1H), 7.31 (m, 2H), 6.96 (m, 2H), 5.10 (s, 2H), 4.94 (s, 1H).

reactant | 2-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-hydroxy-acetic acid 3,4-dichloro-benzyl ester | 9.4 g | ClC=1C=C(COC(C(O)C2=CC=C(C=C2)OCC2=CC(=C(C=C2)Cl)Cl)=O)C=CC1Cl | C22H16Cl4O4
reactant | lithium hydroxide | 2N, 39 mL | [OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF methanol | 120 mL | C1CCOC1.CO
product | [4-(3,4-dichloro-benzyloxy)-phenyl]-hydroxy-acetic acid | ClC=1C=C(COC2=CC=C(C=C2)C(C(=O)O)O)C=CC1Cl | C15H12Cl2O4
